US06828322B2
d) 3-(2-Fluorophenyl)-7-(3-oxocyclobutyl)-1,2,4-triazolo [4,3-b]pyridazin-6-one
8N Chromic acid was added to a solution of 3-(2-fluorophenyl)-7-(3-hydroxycyclobutyl)-1,2,4-triazolo[4,3-b]pyridazin-6-one (0.36 g, 1.2 mmol) in acetone (50 ml) dropwise, until excess was present (red colour remained). The reaction was then stirred for 2 hours before isopropanol was added until the blue colour remained and no excess chromic acid was present. Water (50 ml) was added and the aqueous layer extracted with ethyl acetate (4×50 ml), organic layers were combined, washed with brine (50 ml), dried (MgSO4), filtered and concentrated to give the desired product as a white solid. Data for the title compound: 1H NMR (360 MHz, DMSO) δ 3.41 (2H, s), 3.43 (2H, s), 3.73-3.78 (1H, m), 7.42-7.50 (2H, m), 7.64-7.72 (1H, m), 7.83-7.88 (1H, m), 8.38 (1H, s); MS (ES+) m/e 299 [MH]+.

reactant | Chromic acid | 8N | [Cr](=O)(=O)(O)O
reactant | 3-(2-fluorophenyl)-7-(3-hydroxycyclobutyl)-1,2,4-triazolo[4,3-b]pyridazin-6-one | 1.2 mmol, 0.36 g | FC1=C(C=CC=C1)C1=NN=C2N1NC(C(=C2)C2CC(C2)O)=O | C15H13FN4O2
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | Water | 50 ml | O | H2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 3-(2-Fluorophenyl)-7-(3-oxocyclobutyl)-1,2,4-triazolo [4,3-b]pyridazin-6-one | FC1=C(C=CC=C1)C1=NN=C2N1NC(C(=C2)C2CC(C2)=O)=O | C15H11FN4O2
